US05563162
To a solution of 8-[3-[N-[4-(N-acetyl-N-tert-butoxycarbonylmethylamino)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (143 mg) in dichloromethane (1.4 ml) was added trifluoroacetic acid (0.05 ml) at ambient temperature and the mixture was stirred at the same temperature. After 1 hour, to the solution was added trifluoroacetic acid (1 ml). After 5 hours the solvent was removed in vacuo to give 8-[3-[N-[4-(N-acetyl-N-carboxymethylamino)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (124 mg) as amorphous solid.

reactant | 8-[3-[N-[4-(N-acetyl-N-tert-butoxycarbonylmethylamino)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 143 mg | C(C)(=O)N(CC(=O)OC(C)(C)C)C1=CC=C(C=CC(=O)NCC(=O)N(C)C=2C(=C(COC=3C=CC=C4C=CC(=NC34)C)C(=CC2)Cl)Cl)C=C1 | C37H38Cl2N4O6
reactant | trifluoroacetic acid | 0.05 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.4 ml | ClCCl | CH2Cl2
product | 8-[3-[N-[4-(N-acetyl-N-carboxymethylamino)cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 124 mg | C(C)(=O)N(CC(=O)O)C1=CC=C(C=CC(=O)NCC(=O)N(C)C=2C(=C(COC=3C=CC=C4C=CC(=NC34)C)C(=CC2)Cl)Cl)C=C1 | C33H30Cl2N4O6
